US09035062B2
(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (F1-2), Synthesis from (F1-3b)
To a solution of 100 mg (0.316 mmol) of (2S,5R)-allyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate in dichloromethane (2 mL) were added a solution of 0.5M sodium 2-ethylhexanoate in ethyl acetate (1 mL) and 12 mg of tetrakis(triphenylphosphine)palladium(0), followed by stirring at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, followed by liquid separation with saturated aqueous sodium dihydrogen phosphate solution, the aqueous layer was extracted twice with ethyl acetate, and the combined organic layer was dried over anhydrous sodium sulfate. The residue resulting from concentration of the solvent under reduced pressure was dissolved in ethyl acetate, followed by addition of cyclohexylamine (33 mg), and the deposited solid was filtered off, and washed with ether. The resulting solid was dissolved in saturated aqueous sodium dihydrogen phosphate solution, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. Subsequently, the solvent was concentrated under reduced pressure to afford 68 mg of the title compound as a colorless foamy solid (yield 75%). Instrumental data were consistent with those of the compound of Example 9.

reactant | (2S,5R)-allyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 0.316 mmol, 100 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OCC=C | C17H20N2O4
reactant | sodium 2-ethylhexanoate | 0.5M | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | cyclohexylamine | 33 mg | C1(CCCCC1)N | C6H13N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrakis(triphenylphosphine)palladium(0) | 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 68 mg, yield 75% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
